US08710098B2
0.6 g 3-amino-4-methoxybenzoic acid (1.0 g, 6 mmol) is dissolved in dry THF (tetrahydrofuran) in a 25 ml flask, triethylamine (1.2 ml, 12 mmol) is subsequently added to obtain transparent yellow solution. The mixture is stirred under nitrogen protection, propionyl chloride (0.78 ml, 9 mmol) is added into the flask in an ice-water bath. After finishing addition of propionyl chloride the mixture is naturally raised to room temperature. The reacted mixture is filtered, the filtrate is evaporated to dryness and separated using a silica column to obtain 3-propionamido-4-methoxybenzoic acid 1.3 g (yield: 67%).

reactant | 3-amino-4-methoxybenzoic acid | 6 mmol, 0.6 g | NC=1C=C(C(=O)O)C=CC1OC | C8H9NO3
reactant | triethylamine | 12 mmol, 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 9 mmol, 0.78 ml | C(CC)(=O)Cl | C3H5ClO
solvent | THF | O1CCCC1 | C4H8O
product | 3-propionamido-4-methoxybenzoic acid | 1.3 g, yield: 67% | C(CC)(=O)NC=1C=C(C(=O)O)C=CC1OC | C11H13NO4
